US07550469B2
Methanesulfonic acid (1R, 2R)-2-[4-(6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropylmethyl ester.
To a stirred solution of {(1R, 2R)-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropyl}-methanol (3.712 g, 10.03 mmol) in Et3N (8.5 mL, 61.1 mmol) and anhydrous CH2Cl2 (100 mL ) at 0° C. under N2 was added dropwise CH3SO2Cl (930 uL, 12.02 mmol ). Stirring was continued at 0° C. for 2.5 h. The reaction was quenched with H2O (20 mL). A solution of K2CO3 (4.28 g, 31.01 mmol) in H2O (60 mL) was then added. The resulting mixture was stirred at rt for 15 min, then extracted with CH2Cl2, washed with brine, dried over Na2SO4. Filtration, concentration and drying afforded the desired product (4.301 g, 96%).

reactant | {(1R, 2R)-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropyl}-methanol | 10.03 mmol, 3.712 g | FC(C=1C=CC2=C(SC=C2N2CCN(CC2)C[C@H]2[C@@H](C2)CO)C1)(F)F | C18H21F3N2OS
reactant | Et3N | 61.1 mmol, 8.5 mL | CCN(CC)CC | C6H15N
reactant | CH3SO2Cl | 12.02 mmol, 930 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | 31.01 mmol, 4.28 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 60 mL | O | H2O
product | Methanesulfonic acid (1R, 2R)-2-[4-(6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropylmethyl ester | 4.301 g, 96% | FC(C=1C=CC2=C(SC=C2N2CCN(CC2)C[C@H]2[C@@H](C2)COS(=O)(=O)C)C1)(F)F | C19H23F3N2O3S2
